US07888350B2
1-(3,7-Bis-dimethylamino-phenothiazin-10-yl)-ethanone
Synthesis using hydrazine monohydrate/Hunig's base in one pot. To a 250 cm3 round bottom flask under an atmosphere of nitrogen was added methylthioninium chloride trihydrate (80.2 mmol, 30 g) and acetonitrile (150 cm3). Hydrazine monohydrate (176.5 mmol, 8.84 g) was added and the mixture was heated to reflux and stirred for 10 minutes before cooling to 25° C. The yellow/green suspension had acetic anhydride (794 mmol, 81.2 g) and Hunig's base (diisopropylethylamine) (232 mmol, 29.97 g) added. The mixture was heated at 90° C. for 2 hours. The cooled mixture was then poured carefully into ice water (400 cm3) in ten equal portions while stirring to give a precipitate. The precipitate was stirred for 30 minutes before it was filtered, washed with water (3×100 cm3), and air dried for 30 minutes. The crude material was crystallised from hot ethanol (400 cm3) to yield the title compound (17.15 g, 65%) as a light grey solid. Mp 137° C.; vmax(KBr)/cm−1 2910 (CH), 2876 (CH), 2856 (CH), 2799 (CH), 1659 (C═O), 1596 (NO2), 1502 (NO2); δH (250 MHz; CDCl3) 2.16 (3H, s, CH3), 2.93 (12H, s, NCH3), 6.59-6.62 (2H, d, J 8.5, ArH), 6.69-6.71 (2H, d, J 2.75, ArH), 7.08-7.47 (2H, brd s, ArH); δC (62.9 MHz; CDCl3) 170.3 (C═O), 148.9 (ArC), 127.2 (ArC), 127.1 (ArC), 127.0 (ArC), 110.9 (ArC), 110.7 (ArC), 40.7 (NCH3), 22.9 (CH3); m/z (ES) 284.2 (100%, [M-OAc]+), 328.1 (15%, [M+H]+), 350.1 (41%, [M+Na]+).

reactant | hydrazine monohydrate Hunig's base | O.NN.CCN(C(C)C)C(C)C
reactant | methylthioninium chloride trihydrate | 80.2 mmol, 30 g | O.O.O.[Cl-].CC=1[SH+]C=CC=CC=CC1
reactant | Hydrazine monohydrate | 176.5 mmol, 8.84 g | O.NN
reactant | acetic anhydride | 794 mmol, 81.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Hunig's base | 232 mmol, 29.97 g | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 150 cm3 | C(C)#N | C2H3N
product | 1-(3,7-Bis-dimethylamino-phenothiazin-10-yl)-ethanone | 17.15 g, 65% | CN(C=1C=CC=2N(C3=CC=C(C=C3SC2C1)N(C)C)C(C)=O)C | C18H21N3OS
